US07960394B2
(3) Production of 4-methoxy-3-nitropyridine-2-carboxylic acid
4-Methoxy-2-methyl-3-nitropyridine-N-oxide (mixture with the positional isomer, 10.97 g, 48.5 mmol) was stirred in acetic anhydride (100 mL) at 80° C. for 8 hours. The reaction solution was concentrated under reduced pressure, and in methanol (100 mL), potassium carbonate (33 g, 0.243 mol) was added to the resulting residue at room temperature and stirred at that temperature for 2 hours. The solvent was evaporated off under reduced pressure, and the resulting residue was diluted with ethyl acetate, and washed with water. The resulting organic layer was dried with magnesium sulfate, and the solvent was evaporated off under reduced pressure. The resulting residue was suspended in water (100 mL), and potassium permanganate (23 g, 0.145 mol) was added thereto at room temperature. The reaction solution was stirred at 90° C. for 16 hours, then potassium permanganate (20 g, 0.126 mol) was added thereto and stirred at 90° C. for 3 hours. The reaction solution was cooled to room temperature, methanol was added thereto, and stirred at room temperature for 2 hours. The reaction liquid was filtered, concentrated, and 2 N hydrochloric acid was added to the resulting residue, and the solution was controlled to have a pH of 2. The reaction solution was stirred at 0° C. for 1 hour, then the resulting milky white solid was taken out through filtration and dried to obtain the intended compound (1.35 g, 3 steps, 14%).

reactant | 4-Methoxy-2-methyl-3-nitropyridine-N-oxide | COC1=C(C(=[N+](C=C1)[O-])C)[N+](=O)[O-] | C7H8N2O4
reactant | potassium carbonate | 0.243 mol, 33 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium permanganate | 0.145 mol, 23 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | potassium permanganate | 0.126 mol, 20 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | acetic anhydride | 100 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | methanol | 100 mL | CO | CH4O
product | 4-methoxy-3-nitropyridine-2-carboxylic acid | COC1=C(C(=NC=C1)C(=O)O)[N+](=O)[O-] | C7H6N2O5
